Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
house dust / mold
 
Attending: ___
 
Chief Complaint:
Rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with history of Grave's s/p
thyroidectomy who presents with several weeks of rash and fever.

The patient reports that he was in his usual state of health
until about 3 weeks ago. He was working in his garden at home in
___ when he scratched his right hand on a rose thorn. He
denies any other known exposures in his garden; he does not 
think
his garden contains any poison ___, oak, or sumac. He reports
that at the site of the rose thorn prick on his right thumb he
later developed a painful, pruritic vesicle with surrounding
erythema. Days to weeks later, also developed several similar
spots on his right wrist and right hand. He later developed
similar appearing lesions on his left thigh and left anterior
shin, and later his lower back.

He then traveled to ___ where he spent 5 days backpacking 
in
the mountains with relatives. He reports that on ___ he awoke
and his brother pointed out two small white spots on his left
cheek that appeared to be due to a bug bite. He denies any tick
bites. He also developed left-sided facial and eyelid swelling,
and tender lymphadenopathy on the left side of his neck. He
presented to an ED in ___ on ___, where he was given
Pepcid, methylprednisolone, Zantac, Benadryl, and Allegra. 

Subsequently, his facial swelling initially improved. He felt
well enough to travel to ___ and ___ for work.
However, while he was there he noted that he had severe 
occipital
discomfort and tenderness that kept him awake at night. He
reports that he had some oxycodone left over from a prior dental
procedure and he used that with some relief until it ran out. He
also took Aleve for pain. His pain was so severe that he
considered going to the ER in the ___, but ultimately 
did
not go.

He has a headache, which he feels is from his left posterior
scalp and neck tightness. He denies any visual changes. He also
reports that his bilateral ears feel full. His sinuses also feel
full and he has been using a Netipot. 

He reports that beginning after the rose prick several weeks ago
he developed chills that have persisted. When he began to take
his temperature several days prior to admission he found that he
had fevers. When he returned from the ___, he again
worked in his garden in ___. He noticed that his facial
swelling was getting progressively worse again. Given his 
ongoing
fevers, rash, and facial swelling, he presented to the ED for
further care. Aside from the above symptoms, he denies any chest
pain, palpitations, cough, shortness of breath, abdominal pain,
nausea, vomiting, diarrhea, dysuria. He has no prior history of
boils or non-healing wounds.

In the ED, vitals: Tmax 102.5, 84, 147/79, 20 99% RA 
Exam notable for:
- HEENT: NCAT. L forehead erythema, periorbital edema. PERRLA
EOMI. Oropharynx clear. ___ - L TM clear, R ear canal w cerumen
cannot visualize. Cervical LAD b/l. No oral lesions
Neck supple, no meningismus. TTP along L lateral neck
- Skin: 
scabbed lesions - 3 on R volar wrist, 1 on R ring finger, 1 on L
thumb 
Isolated lesions x2 on left anterior shin - one is 1.5cm, 
another
3cm with circumferential surrounding erythema
spares torso
Multiple crusted, blistered lesions on L groin. vesicular 
lesions
on L lateral thigh 
Labs notable for: WBC 15 (___), Hb 12, BMP, LFTs wnl
Imaging: None
Consults: Dermatology
Patient given: Tylenol 1 g, ceftriaxone 1 gm

On arrival to the floor, the patient recounts the above history.
He reports ongoing left-sided posterior scalp and neck
discomfort. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Grave's disease s/p thyroidectomy
 
Social History:
___
Family History:
Father: Healthy
Mother: ___, leukemia
No known family history of immunodeficiency

 
Physical Exam:
Admission Exam
VITALS: 98.6 118/72 64 18 97 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Left periorbital and facial swelling with erythema, no oral
lesions
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: On right hand, maculopapular lesions with overlying crust
and surrounding erythema on right finger, base of right thumb,
and volar wrist; also faint lesions on fingertips; on left leg,
multiple vesicular lesions with surrounding erythema in interior
left leg and outer left thigh; left anterior shin with two 
larger
(~2 cm) shallow lesions with crusting and surrounding erythema.
On coccyx, vesicular lesion with surrounding erythema. Scattered
faint lesions on left palm and soles of feet.
LYMPH: Prominent, painful left posterior cervical 
lymphadenopathy
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout, no meningismus
PSYCH: Very pleasant, appropriate affect

Discharge Exam
Afebrile with stable vitals 
Gen: well appearing middle aged man seated in bed but 
ambulating,
alert, cooperative
HEENT: improving L facial swelling centered around the eye, 
non-tender to
palpation, no obvious fluid collections or fluctuance, no open
wound or signs of bug bite, anicteric, MMM, adenoids are normal,
with small supraclavicular/lower cervical ___ bilaterally, with 
L
cervical area swelling as well as L sub-occipital swelling and
erythema
Chest: equal chest rise, CTAB posteriorly, no WOB or cough
Heart: bradycardic, but regular, no m/r/g
Abd: soft, NTND
Extr: WWP, no pitting edema
Skin: multiple lesions on his legs, feet, back -- some are
small and vesicular, others are larger and appear to have been
ulcerations that have since scabbed over, with some erythema in
particular 
 
Pertinent Results:
Admission labs
___ 02:15PM   ___ PTT-28.8 ___
___ 02:15PM   PLT COUNT-279
___ 02:15PM   NEUTS-90.7* LYMPHS-6.2* MONOS-2.1* EOS-0.1* 
BASOS-0.3 IM ___ AbsNeut-13.68* AbsLymp-0.94* AbsMono-0.31 
AbsEos-0.01* AbsBaso-0.04
___ 02:15PM   WBC-15.1* RBC-4.01* HGB-12.2* HCT-38.5* 
MCV-96 MCH-30.4 MCHC-31.7* RDW-11.9 RDWSD-41.8
___ 02:15PM   estGFR-Using this
___ 02:15PM   GLUCOSE-110* UREA N-14 CREAT-0.9 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-28 ANION GAP-14
___ 02:18PM   LACTATE-1.5
___ 04:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 04:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:13PM   HIV Ab-NEG
___ 05:13PM   Trep Ab-NEG
___ 05:13PM   CRP-117.0*
___ 05:13PM   ALT(SGPT)-21 AST(SGOT)-18 ALK PHOS-64 TOT 
BILI-0.2

Microbiology
Lyme Ab -- Pending 
___ Spotted Fever -- pending
Cryptococcal Antigen -- pending
Coccidioides Ab, Complement Fixation and Immunodiffusion -- 
pending
B-Glucan -- pending
Aspergillus Galactomannan Antigen -- pending
Chagas' disease panel -- pending
Sed Rate -- pending

___  SWAB WOUND CULTURE-PENDING
___  SWAB VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS-PENDING;
VARICELLA-ZOSTER CULTURE-PENDING
___  Blood Culture, Routine-PENDING
___  URINE CULTURE-PENDING
___  Blood Culture, Routine-PENDING

Imaging
___ CT Head and Neck w/contrast -- pending

Discharge labs

___ 07:30AM BLOOD WBC-5.1 RBC-3.78* Hgb-11.5* Hct-36.0* 
MCV-95 MCH-30.4 MCHC-31.9* RDW-11.9 RDWSD-41.5 Plt ___
___ 07:30AM BLOOD Neuts-56.8 ___ Monos-6.1 Eos-2.2 
Baso-0.8 Im ___ AbsNeut-2.90 AbsLymp-1.70 AbsMono-0.31 
AbsEos-0.11 AbsBaso-0.04
___ 07:30AM BLOOD Glucose-93 UreaN-15 Creat-0.8 Na-142 
K-5.0 Cl-102 HCO3-30 AnGap-10
___ 07:30AM BLOOD ALT-26 AST-23 LD(LDH)-168 AlkPhos-56 
TotBili-<0.2
___ 05:55AM BLOOD Lyme Ab-NEG
___ 05:13PM BLOOD HIV Ab-NEG
___ 02:18PM BLOOD Lactate-1.___ man w/PMHx Grave's s/p thyroidectomy admitted with sepsis 
in the context of several weeks of rash and fever.

#Sepsis (fevers ~103, chills, leukocytosis), now stable
#L facial/eyelid swelling, tender lymphadenopathy, headache, 
sensation of full ears and sinuses
#History consistent with possible sporotrichosis, other fungal 
infection, or tick-borne illness
-HIV and RPR negative
- CT head/neck showed Mucosal thickening of the right maxillary 
sinus with aerosolized material, suggestive of acute sinusitis. 
The remaining paranasal sinuses are essentially clear.  There 
are multiple prominent lymph nodes; however, none are enlarged 
by size criteria. Please see separate same day CT head report 
for description of the paranasal sinuses, mastoid air cells, and 
middle ear cavities. 

- Cryptococcal Ag negative
-other workup for fungal illness -- coccidioidomycosis 
serologies, beta-glucan, galactomannan, ordered and pending
-possible superinfection of multiple skin lesions -- on 
ceftriaxone as ipatient, switched to cephalexin on discharge per 
ID recommendation
-possible tick-borne illness (lives in ___, traveled to 
___ recently) -- serologies for Lyme negative
-empiric doxycycline per ID ___
-f/u BCx -- UA was unremarkable
- Chagas and RMSF serologies pending 

#Suspected herpes zoster
-vesicular lesions above the sacral and on the L thigh -- 
scrapings were done by Dermatology, but were not sent for DFA, 
viral cxnegative
- is on empiric acyclovir, plan 7d of treatment (___)

#Anemia
-Mild, no overt bleeding
-ferritin argues against iron deficiency

#Grave's disease s/p thyroidectomy:
-continue levothyroxine

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 175 mcg PO DAILY 

 
Discharge Medications:
1.  Acyclovir 800 mg PO 5X/DAY Duration: 7 Days 
RX *acyclovir [Zovirax] 800 mg 1 capsule(s) by mouth five times 
daily Disp #*25 Tablet Refills:*0 
2.  Cephalexin 500 mg PO Q6H Duration: 3 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth four times a day 
Disp #*12 Capsule Refills:*0 
3.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*16 Tablet Refills:*0 
4.  Levothyroxine Sodium 175 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
To be determined 
Concern for tick born disease vs. Gardener's disease vs. other 
infection  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a several week history of rash, fevers, 
and chills.  You were evaluated by the Infectious Disease 
consultants and ultimately they determined that more work up is 
needed to reach a final diagnosis. There are few tests that are 
pending, please follow up with ID on these test results to 
determine the next step, meanwhile, please take the new 
medications; cephalexin, acyclovir, and doxycycline as 
prescribed. 
 
Followup Instructions:
___